US08957064B2
Step 3: 5-chloro-6-(3-fluorophenyl)-2-methyl-[1,2,4]triazolo[1,5-a]pyrimidine
10.4 g (35 mmol) 5,7-Dichloro-6-(3-fluorophenyl)-2-methyl-[1,2,4]triazolo[1,5-a]pyrimidine are given in 898 mL ethanol. 8.8 g (164.5 mmol) NH4Cl, 630 mL water, 340 mL THF and 14.6 g (224 mmol) zinc powder are added. The mixture is stirred at room temperature for 3.5 hours. The reaction mixture is filtered and the organic solvents are removed. The residue is diluted with water and extracted three times with ethyl acetate. The combined organic layers are washed with brine and dried over Na2SO4. After evaporation of the solvent the residue is purified by chromatography giving 0.73 g (7.9%) of the desired product. Due to this low yield the zinc- and the Na2SO4 filter cakes are extracted with methanol delivering 2.3 g starting material.

reactant | 5,7-Dichloro-6-(3-fluorophenyl)-2-methyl-[1,2,4]triazolo[1,5-a]pyrimidine | 35 mmol, 10.4 g | ClC1=NC=2N(C(=C1C1=CC(=CC=C1)F)Cl)N=C(N2)C | C12H7Cl2FN4
reactant | NH4Cl | 164.5 mmol, 8.8 g | [NH4+].[Cl-]
reactant | water | 630 mL | O | H2O
reactant | THF | 340 mL | C1CCOC1 | C4H8O
solvent | ethanol | 898 mL | C(C)O | C2H6O
catalyst | zinc | 224 mmol, 14.6 g | [Zn] | Zn
product | 5-chloro-6-(3-fluorophenyl)-2-methyl-[1,2,4]triazolo[1,5-a]pyrimidine | 0.73 g, 7.9% | ClC1=NC=2N(C=C1C1=CC(=CC=C1)F)N=C(N2)C | C12H8ClFN4
